2185-08-25 09:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: GI bleed
   24 Hour Events:
   Received 4u prbc yest for downtrending Hct and 4uFFP yest.
   Hemodynamically stable, though continues to have hematochezia. CVC
   placed by IR last night. No source of bleeding seen by their IR study.
   GI svce consulted and planning for colonoscopy this am.
   Allergies:
   Penicillins
   Unknown;
   Methyldopa
   Unknown;
   Clindamycin
   Unknown;
   Sulfamethoxazole
   Unknown;
   Trimethoprim
   Unknown;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefazolin - [**2185-8-25**] 05:58 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2185-8-25**] 02:00 AM
   Fentanyl - [**2185-8-25**] 02:02 AM
   Pantoprazole (Protonix) - [**2185-8-25**] 05:58 AM
   Other medications:
   RISS, Protonix, Advair, Solumedrol 20 q24, Spiriva, nystatin, Cefazolin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-25**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 108 (79 - 108) bpm
   BP: 114/71(83) {90/41(66) - 146/93(91)} mmHg
   RR: 29 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.4 kg (admission): 49 kg
   CVP: 0 (-2 - 4)mmHg
   Total In:
                                                                    805 mL
                                                                  1,849 mL
   PO:
   TF:
   IVF:
                                                                    525 mL
                                                                    449 mL
   Blood products:
                                                                    280 mL
                                                                  1,400 mL
   Total out:
                                                                    420 mL
                                                                  1,635 mL
   Urine:
                                                                    420 mL
                                                                    535 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                    385 mL
                                                                    214 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: vague
   upper abd pain
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   50 K/uL
   105 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   30 mg/dL
   103 mEq/L
   142 mEq/L
   32.8 %
   10.3 K/uL
        [image002.jpg]
                             [**2185-8-24**]  09:30 PM
                             [**2185-8-25**]  05:25 AM
   WBC
   10.3
   10.3
   Hct
   22.0
   32.8
   Plt
   72
   50
   Cr
   0.7
   Glucose
   105
   Other labs: PT / PTT / INR:14.5/26.9/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:42/2.1, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: OSH Tagged RBC scan [**8-24**]- suggested L lower quadrant source
   [**8-24**] CXR- small bilat effusions, hyperinflation, R IJ and R picc
   identified; NGT terminates in esophagus, ? retrocardiac infiltrate
   Microbiology: Wound swab [**8-24**]- GPCs
   Blood and urine [**8-24**]- pending
   Assessment and Plan
   78 yof w/ CAD, COPD, recent complicated hospitalization, w/ large-vol
   GIB while at rehab. Hemodynamically stable.
   GI Bleed- probable lower source, clinically does not fit w/ a brisk
   upper bleed.
   -has PICC and CVC
   -holding ASA, Plavix and LMWH heparin
   -IV NS for fluid resuscitation
   -transfusing to keep Hct >30
   -serial Hct q4
   -monitor coags, fibrinogen, lytes, plts w/ large transfusion
   -IR and GI svces following, consider repeat tagged RBC scan vs
   colonoscopy
   THROMBOCYTOPENIA-- DDx includes cephalosporin, PPI tx as well as
   dilutional related to large transfusion
   -hold cefazolin
   -transfuse plts for ct < 50k
   RIGHT GROIN WOUND
   -will consult Wound Care svce re: poss infection and for gen care
   -f/u swab culture and consider tx if warranted
   -no signs of infection at this time
   CAD -- s/p recent NSTEMI.  No evidence for active cardiac ischemia
   recently.
   -holding ASA and Plavix for now
   A-FIB -- rate controlled currently.  Amioderone on hold while NPO.
   -holding metoprolol
   -holding anticoag
   COPD -- stable
   -cont to wean steroids, decr to 10 qd
   -Advair, Spiriva, prn bronchodilators
   ICU Care
   Nutrition:
   Comments: npo given GIB
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2185-8-24**] 09:28 PM
   20 Gauge - [**2185-8-24**] 10:23 PM
   Multi Lumen - [**2185-8-25**] 06:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-08-26 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Total 7 U pRBC since arrival, 1 units of platelets, 2 units FFP.
   Tagged RBC scan negative.
   - GI: Hct goal >30. NPO, PPI, prep for colonoscopy tmrw. Hemolysis w/u
   neg with hapto 78.
   - Received ativan 0.25mg IV x 1 for anxiety (takes prn at home)
   - Had episode of CP at 1430, EKG with AFib, HR low 100s. Given
   lopressor 5mg x 1 with conversion to sinus. Received morphine 1mg x 2,
   ativan 0.25mg x 1, lasix 20mg x 1. Pain resolved.
   - Given 500cc bolus for MAP 51
   - Episode of SVT with HR in 170s. Pt asx and HD stable. Given lopressor
   5mg x 1 with conversion.
   - Episode of desaturation to 80s with uptitration of nasal cannula
   oxygenation, received 20 mg IV lasix, morphine 1mg IV, ativan 0.25mg IV
   with improvement
   - seen by vascular surgery for leg wound, will consider debridement
   when stable
   - seen by wound care nurse [**First Name (Titles) **] [**Last Name (Titles) 2289**] re skin care
   Allergies:
   Penicillins
   Unknown;
   Methyldopa
   Unknown;
   Clindamycin
   Unknown;
   Sulfamethoxazole
   Unknown;
   Trimethoprim
   Unknown;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefazolin - [**2185-8-25**] 05:58 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2185-8-25**] 02:50 PM
   Metoprolol - [**2185-8-25**] 10:25 PM
   Furosemide (Lasix) - [**2185-8-26**] 05:15 AM
   Morphine Sulfate - [**2185-8-26**] 05:49 AM
   Pantoprazole (Protonix) - [**2185-8-26**] 07:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-26**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 100 (75 - 108) bpm
   BP: 124/56(71) {93/37(57) - 151/88(89)} mmHg
   RR: 23 (13 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 46.4 kg (admission): 49 kg
    CVP: 6 (-3 - 21)mmHg
   Total In:
                                                                  8,164 mL
                                                                    173 mL
   PO:
   TF:
   IVF:
                                                                  1,213 mL
                                                                    173 mL
   Blood products:
                                                                  2,891 mL
   Total out:
                                                                  5,635 mL
                                                                  1,175 mL
   Urine:
                                                                  2,285 mL
                                                                    675 mL
   NG:
                                                                    200 mL
   Stool:
                                                                  3,150 mL
   Drains:
   Balance:
                                                                  2,529 mL
                                                                 -1,002 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Conjunctiva pale, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rare wheezes and diminished breath sounds throughout, without
   rales, rhonchi
   CV: Irreg irreg, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Rectal: no stool in flexiseal currently (more yellow [**Name8 (MD) 77**] RN)
   Ext: faint pulses, no clubbing, cyanosis or edema, R femoral wound with
   necrotic tissue, R LE wound after fasciotomy.
   Labs / Radiology
   110 K/uL
   10.3 g/dL
   86 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   22 mg/dL
   110 mEq/L
   150 mEq/L
   29.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2185-8-25**]  08:35 AM
                             [**2185-8-25**]  11:50 AM
                             [**2185-8-25**]  02:27 PM
                             [**2185-8-25**]  02:32 PM
                             [**2185-8-25**]  02:43 PM
                             [**2185-8-25**]  04:09 PM
                             [**2185-8-25**]  06:05 PM
                             [**2185-8-25**]  09:40 PM
                             [**2185-8-25**]  09:47 PM
                             [**2185-8-26**]  04:06 AM
   WBC
   11.6
   Hct
   30.5
   26.0
   29.4
   32.5
   31.2
   29.5
   Plt
   46
   138
   124
   106
   110
   Cr
   0.7
   0.7
   0.7
   0.6
   TropT
   0.06
   0.09
   0.14
   Glucose
   142
   135
   97
   86
   Other labs: PT / PTT / INR:13.7/27.1/1.2, CK / CKMB /
   Troponin-T:92//0.14, ALT / AST:17/25, Alk Phos / T Bili:42/2.6,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8
   mg/dL
   Imaging: Portable CXR [**2185-8-25**]: As compared to the previous radiograph,
   the nasogastric tube has been newly placed. The course of the tube is
   unremarkable, the tip of the tube is not displayed on the image.
   Otherwise, the radiograph is unchanged. No evidence of complications,
   notably no pneumothorax.
   Microbiology: [**2185-8-24**] 9:26 pm SWAB      Source: Groin wound.
      GRAM STAIN (Final [**2185-8-25**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND
   CLUSTERS.
   Blood cultures [**2185-8-24**] - pending
   Urine cultures [**2185-8-24**]
 pending
   Tagged RBC scan: No definite evidence of gastrointestinal bleeding.
   Increased activity within the low abdomen just left of midline is
   likely artifactual.
   Assessment and Plan
   78 yo F with hx of CAD, A-fib, COPD who presented with lower GI bleed
   and is transfered from [**Hospital3 57**] Hospital for evaluation for IR
   guided embolization.
   Lower GI Bleed: Presented with BRBPR.  Tagged RBC scan positive at [**Hospital **] for L colonic bleeding.  She has required 9 U PRBC and 5 U FFP and
   one unit of platelets.  Embolization here was unsuccessful.  Plan for
   colonoscopy today.
   - active type and screen
   - hematocrit stable overnight
   - Q6 hour hematocrits today
   - 2 large bore IVs
   - IV PPI [**Hospital1 **]
   - plan for colonscopy today
   - f/u GI, surgery, IR recs
   - transfuse for > 30
   CAD: S/P NSTEMI in [**7-/2182**] without stents.  Was on ASA, plavix.  Having
   periods of chest pain overnight without EKG changes in the setting of
   tachycardia.  Now with flat CKS and MBs but with slowly rising
   troponins.
   - continue to hold ASA and plavix in the setting of bleeding
   - will restart metoprolol 25 mg TID for rapid atrial fibrillation and
   NSTEMI
   - restart simvastatin 80 mg daily
   - trend cardiac enzymes until troponins are declining
   - consider cardiology consult
   Atrial fibrillation: Episodes of rapid atrial fibrillation overnight
   which responded well to lopressor.
   - amiodarone restarted
   - will restart metoprolol 25 mg TID with holding parameters
   Thrombocytopenia: Platelets decreased to 50s yesterday in the setting
   of significant bleeding and resuscitation with PRBCs alone.  Now stable
   after single platelet transfusion.
   - monitor platelets
   - cefazolin discontinued
   Dyspnea: patient with episodes of dyspnea and mild desaturations
   overnight which improved with lasix and ativan.  Likely related to
   significant volume resuscitation for GI bleeding.
   - low dose IV lasix with transfusions as needed
   - metoprolol for rapid atrial fibrillation
   COPD: On home O2 and steroid dependent. Currently on prednisone taper.
   Patient more dyspneic overnight in the setting of rapid atrial
   fibrillation and possible volume overload from transfusions.
   - continue ipratropium and advair, d/c tiotropium
   - slow methylpred taper as patient has been on steroids for extended
   periods of time (currently at 10 mg daily)
   - Nebs PRN
   Hypernatremia:  Likely secondary to resuscitation with normal saline,
   blood in absence of free water.
   - D5W @ 50 cc/hr while awaiting colonoscopy
   - advance diet to clears after procedure if able to allow thirst to
   regulate sodium
   R femoral wound: necrotic tissue present around prior thrombus site
   - wound culture with gram positive cocci in clusters, speciation
   pending
   - f/u wound care and vascular surgery recs
   - holding antibiotics for now given no clear signs of infection
   ICU Care
   Nutrition: NPO for now, IV fluids as above
   Glycemic Control:
   Lines:
   PICC
   RIJ
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Patinet
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She appears to have needed less pRBC support over past 24 hrs. She did
   develop chest heaviness over the last day but had responded to lasix
   and morphine bolus therapy. She has diminished breath sound at both
   bases and minimal wheezing. Her right groin wound does not appear to be
   bleeding. Tagged nuclear study did not show features of acute GI blood
   loss. Mildly elevated troponin raises concerns of ongoing demand
   ischemia. There are no new worrisome EKG changes
   She awaits colonoscopy today. We will also continue to cycle troponin
   and cardiac enzymes and keep Hct greater than 30 at all times.
   Unfortunately she has fixed coronary disease not amenable to PCI. We
   will keep HR control optimized at all times. If she rebleeds, IR or
   surgical options will be considered again in that order provided
   colonoscopy shows area of possible bleed.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2185-8-26**] 12:29 ------

2185-08-27 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2185-8-26**] 11:41 AM
   - received additional 1 unit PRBCs today
   - received 500 cc bolus x 2 for low urine output and hypotension
   - had colonoscopy which showed diverticulosis in the sigmoid colon but
   no active bleeding
   - NGT removed and transitioned to clears
   - started back on beta blocker and high dose statin for troponin
   elevation and chest pain overnight
   - groin wound debrided at bedside and VAC dressing placed.  Wound
   culture growing pseudomonas.  Started on ciprofloxacin
   Allergies:
   Penicillins
   Unknown;
   Methyldopa
   Unknown;
   Clindamycin
   Unknown;
   Sulfamethoxazole
   Unknown;
   Trimethoprim
   Unknown;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefazolin - [**2185-8-25**] 05:58 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2185-8-26**] 08:04 AM
   Midazolam (Versed) - [**2185-8-26**] 11:15 AM
   Fentanyl - [**2185-8-26**] 11:25 AM
   Lorazepam (Ativan) - [**2185-8-26**] 08:55 PM
   Pantoprazole (Protonix) - [**2185-8-27**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-27**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.1
   HR: 88 (70 - 100) bpm
   BP: 94/54(46) {75/33(42) - 125/63(79)} mmHg
   RR: 20 (9 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48 kg (admission): 49 kg
   Height: 60 Inch
    CVP: 12 (0 - 21)mmHg
   Total In:
                                                                  3,607 mL
                                                                    281 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  3,132 mL
                                                                    281 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,830 mL
                                                                    105 mL
   Urine:
                                                                  1,330 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,777 mL
                                                                    176 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Conjunctiva pale, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rare wheezes and diminished breath sounds throughout, without
   rales, rhonchi
   CV: Irreg irreg, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Rectal: no stool in flexiseal currently (more yellow [**Name8 (MD) 77**] RN)
   Ext: faint pulses, no clubbing, cyanosis or edema, R femoral wound with
   necrotic tissue, R LE wound after fasciotomy.
   Labs / Radiology
   91 K/uL
   11.2 g/dL
   91 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   16 mg/dL
   102 mEq/L
   135 mEq/L
   31.9 %
   15.0 K/uL
        [image002.jpg]
                             [**2185-8-25**]  06:05 PM
                             [**2185-8-25**]  09:40 PM
                             [**2185-8-25**]  09:47 PM
                             [**2185-8-26**]  04:06 AM
                             [**2185-8-26**]  09:09 AM
                             [**2185-8-26**]  12:10 PM
                             [**2185-8-26**]  02:55 PM
                             [**2185-8-26**]  08:04 PM
                             [**2185-8-26**]  09:38 PM
                             [**2185-8-27**]  03:52 AM
   WBC
   11.6
   14.4
   15.0
   Hct
   32.5
   31.2
   29.5
   30.7
   27.6
   31.3
   31.9
   Plt
   106
   110
   90
   91
   Cr
   0.7
   0.6
   0.6
   0.6
   TropT
   0.09
   0.14
   0.20
   0.22
   0.25
   Glucose
   97
   86
   314
   91
   Other labs: PT / PTT / INR:14.2/29.2/1.2, CK / CKMB /
   Troponin-T:85/10/0.25, ALT / AST:17/25, Alk Phos / T Bili:42/2.6,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Cardiac biomarker trend: from [**8-26**] -> [**8-27**]
   CK: 92
   MB: Notdone
   Trop-T: 0.14
   CK: 94
   MB: Notdone
   Trop-T: 0.20
   CK: 100
   MB: 10
   MBI: 10.0
   Trop-T: 0.22
   CK: 85
   MB: Notdone
   Trop-T: 0.25
   Imaging: CXR [**2185-8-26**]: The NG tube tip is in the stomach. The pacemaker
   lead is in the right atrium
   with no right ventricle pacemaker lead demonstrated, unchanged since
   the prior
   study. The right internal jugular line tip is at the level of low SVC.
   There
   is interval progression of the right upper lobe opacities that might be
   consistent with recent aspiration giving the rapidity of the changes.
   The
   bibasilar linear opacities consistent with atelectasis most likely are
   unchanged. There is minimal bilateral pleural effusion with no
   significant change since the prior study.
   Microbiology: Blood culture [**2185-8-24**]: pending
   Urine culture [**2185-8-24**]: pending
   Wound culture [**2185-8-25**]: WOUND CULTURE (Preliminary):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 THROMBOCYTOPENIA, ACUTE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   78 yo F with hx of CAD, A-fib, COPD who presented with lower GI bleed
   and is transfered from [**Hospital3 57**] Hospital for evaluation for IR
   guided embolization.
   Lower GI Bleed: Presented with BRBPR.  Tagged RBC scan positive at [**Hospital **] for L colonic bleeding.  She has required 9 U PRBC and 2 U FFP and
   one unit of platelets since arrival at [**Hospital1 5**] and had 6 U PRBC and 4 U
   FFP at [**Hospital3 **].  Embolization here was unsuccessful.  Colonoscopy with
   many diverticuli, but no active bleeding.
   - active type and screen
   - hematocrit stable overnight
   - [**Hospital1 **] hematocrits today
   - R IJ in place
   - IV PPI [**Hospital1 **]
   - f/u GI, surgery, IR recs
   - transfuse for > 30
   CAD: S/P NSTEMI in [**7-/2185**] without stents.  Was on ASA, plavix.  Having
   periods of chest pain overnight without EKG changes in the setting of
   tachycardia.  Now with flat CKS and MBs but with slowly rising
   troponins.
   - continue to hold ASA and plavix in the setting of bleeding
   - continue metoprolol 25 mg TID for rapid atrial fibrillation and
   NSTEMI
   - continue simvastatin 80 mg daily
   - trend cardiac enzymes until troponins are declining
   Hypotension:   Patient hypotensive overnight with marginal UOP.
   Presumed hypovolemic.  Bolused total of 1.5 L with 1.3 L of UOP over 24
   hrs. Other etiologies include infectious, hemorrhagic although
   hematocrit is stable.
   - Continue PRN boluses as needed to target SBP and urine output.
   Follow O2 sats and lung exam.
   - transduce CVP if continues to be hypotensive\
   - trend cardiac enzymes
   Atrial fibrillation: Episodes of rapid atrial fibrillation earlier in
   course which responded well to lopressor.
   - continue amiodarone
   - continue metoprolol 25 mg TID with holding parameters
   Thrombocytopenia: Platelets decreased to 50s day after arrival in the
   setting of significant bleeding and resuscitation with PRBCs alone.
   Now stable after single platelet transfusion.
   - monitor platelets
   - cefazolin discontinued
   Dyspnea: patient with episodes of dyspnea and mild desaturations 24
   hours ago which was treated with lasix and ativan.  CXr with
   questionable worsening volume overload but other parameters suggest
   that she is intravascularly dry.
   - rate control of atrial fibrillation with metoprolol and amioadarone
   - continue home inhalers for COPD, steroids
   - titrate o2 sats to 88%
   COPD: On home O2 and steroid dependent. Currently on prednisone taper.
   Patient more dyspneic 24 hours ago in the setting of rapid atrial
   fibrillation and possible volume overload from transfusions.
   - continue ipratropium and advair, d/c tiotropium
   - slow methylpred taper as patient has been on steroids for extended
   periods of time (will transition to PO prednisone today)
   - Nebs PRN
   Hypernatremia:  Resolved.  Likely secondary to resuscitation with
   normal saline, blood in absence of free water.
   - advance diet to allow thirst to regulate sodium
   R femoral wound: necrotic tissue present around prior thrombus site
   - wound culture with pseudomonas
   - started ciprofloxacin and add zosyn given presence of graft
   - f/u wound care and vascular surgery recs
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-24**] 09:28 PM
   Multi Lumen - [**2185-8-25**] 06:05 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2185-08-27 09:05:00 Physician Attending Progress Note
Chief Complaint: GIB
   HPI:
   78 f w/ BRBPR, s/p transfustion 13 U PRBC, s/p angiography w/o source,
   now s/p colonoscopy.
   24 Hour Events:
 COLONOSCOPY - At [**2185-8-26**] 11:41 AM, diverticulosis noted, no active
   bleeding.
   1 U PRBC yesterday
   Rec'd 500cc bolus x3 for low Uo and hypotension
   Started back on BB/statin
   Groin wound debrided, now w/ vac dressing.
   Wound culture growing pseudomonas
   Allergies:
   Penicillins
   Unknown;
   Methyldopa
   Unknown;
   Clindamycin
   Unknown;
   Sulfamethoxazole
   Unknown;
   Trimethoprim
   Unknown;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefazolin - [**2185-8-25**] 05:58 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2185-8-26**] 11:15 AM
   Fentanyl - [**2185-8-26**] 11:25 AM
   Pantoprazole (Protonix) - [**2185-8-27**] 06:13 AM
   Lorazepam (Ativan) - [**2185-8-27**] 06:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-27**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.1
   HR: 88 (70 - 93) bpm
   BP: 94/54(46) {75/33(42) - 118/57(73)} mmHg
   RR: 20 (9 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48 kg (admission): 49 kg
   Height: 60 Inch
   CVP: 12 (0 - 21)mmHg
   Total In:
                                                                  3,607 mL
                                                                    299 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  3,132 mL
                                                                    299 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,830 mL
                                                                    105 mL
   Urine:
                                                                  1,330 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,777 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Heart: Regular s1,s2. no m/r/g.  Pacer site w/ eschar, no erythema.  No
   tenderness
   Lungs: b/l diffuse wheeze, w/ prolonged exp phase
   R groin vac dressing in place
   Medial and lateral tibial fasciotomies c/d/i.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
                                  11.2 g/dL
   91 K/uL
   91 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   16 mg/dL
   102 mEq/L
   135 mEq/L
   31.9 %
   15.0 K/uL
        pseudomonas from wx cx, await [**Last Name (un) 46**]
                             [**2185-8-25**]  06:05 PM
                             [**2185-8-25**]  09:40 PM
                             [**2185-8-25**]  09:47 PM
                             [**2185-8-26**]  04:06 AM
                             [**2185-8-26**]  09:09 AM
                             [**2185-8-26**]  12:10 PM
                             [**2185-8-26**]  02:55 PM
                             [**2185-8-26**]  08:04 PM
                             [**2185-8-26**]  09:38 PM
                             [**2185-8-27**]  03:52 AM
   WBC
   11.6
   14.4
   15.0
   Hct
   32.5
   31.2
   29.5
   30.7
   27.6
   31.3
   31.9
   Plt
   106
   110
   90
   91
   Cr
   0.7
   0.6
   0.6
   0.6
   TropT
   0.09
   0.14
   0.20
   0.22
   0.25
   Glucose
   97
   86
   314
   91
   Other labs: PT / PTT / INR:14.2/29.2/1.2, CK / CKMB /
   Troponin-T:85/10/0.25, ALT / AST:17/25, Alk Phos / T Bili:42/2.6,
   Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   78 F w/ a h/o [**Hospital 7812**] transferred from an outside hospital with BRBPR,
   tagged cell scan c/w colonic source, s/p massive transfusion, and
   colonoscopy.
   GIB
 unclear source.  Given rapidity and profuse nature of hemorrhage
   possibly diverticular.  Tagged scan from OSH showed possible L colonic
   source.  Has rec
d 15U PRBC, 6FFP, 1 PLT.  Surgery is following.  Check
   fibrinogen, Q8H hct, IV PPI [**Hospital1 **].  Maintain Hct >30 given ischemia.
   Type and screen
   Hypotension
 was likely [**3-14**] volume re-equilibration.  Following Uo,
   bolus for <30cc/h, MAP.  Check CVP
   CAD s/p NSTEMI in [**7-19**] w/o PCI (+angiogram).  Holding both ASA/plavix.
   Enzyme leak likely [**3-14**] demand (AF w/ RVR and
   -on metoprolol [**Hospital1 **]
   -cont to trend ck/Tn
   AF w/ RVR
 amio restarted w/ metoprolol.  Not chronically
   anticoagulated.
   Thrombocytopenia
 likely dilutional.  Now stable.  If it continues to
   drop would consider abx, HIT, etc as alternative etiologies.
   R femoral wound
 vasc surgery following.  s/p debridement.
   -zosyn and cipro for pseudomonal coverage.
   s/p fasciotomy
 wounds c/d/i.
   COPD Exacerbation
 remains wheezy on exam
   -transition to prednisone 10mg.   Now on day 18 day.  Will need long
   taper.
   FEN
 advance diet to fulls
   ICU Care
   Nutrition: continued on TFs.
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-24**] 09:28 PM
   Multi Lumen - [**2185-8-25**] 06:05 AM, RIJ
   Prophylaxis:
   DVT:  pneumoboot
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2185-08-28 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct stable without any further PRBCs
   - Started on Meropenum in addition to Cipro for double coverage of
   psuedamonas in R femoral wound.  Per vascular, will change vac
   Sun/Tues/Thurs
   - Methylprednisone changed to PO prednisone -> taper to 5 mg daily to
   start on [**2185-8-28**]
   - ADAT and stool softener started
   - bolused 500 cc for low UOP, but did not increase.
   Allergies:
   Penicillins
   Unknown;
   Methyldopa
   Unknown;
   Clindamycin
   Unknown;
   Sulfamethoxazole
   Unknown;
   Trimethoprim
   Unknown;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2185-8-27**] 06:06 PM
   Meropenem - [**2185-8-28**] 03:50 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2185-8-27**] 06:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-28**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.8
   HR: 70 (70 - 104) bpm
   BP: 116/63(76) {99/47(61) - 147/84(98)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Wgt (current): 48 kg (admission): 49 kg
   Height: 60 Inch
    CVP: 6 (6 - 19)mmHg
   Total In:
                                                                  2,034 mL
                                                                    165 mL
   PO:
                                                                    780 mL
   TF:
   IVF:
                                                                  1,254 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    250 mL
   Urine:
                                                                    400 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,634 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Conjunctiva pale, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rare wheezes and diminished breath sounds throughout, without
   rales, rhonchi
   CV: Irreg irreg, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Rectal: no stool in flexiseal currently (more yellow [**Name8 (MD) 77**] RN)
   Ext: faint pulses, no clubbing, cyanosis or edema, R femoral wound with
   necrotic tissue, R LE wound after fasciotomy.
   Labs / Radiology
   93 K/uL
   10.4 g/dL
   70 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.9 mEq/L
   16 mg/dL
   105 mEq/L
   137 mEq/L
   31.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2185-8-26**]  04:06 AM
                             [**2185-8-26**]  09:09 AM
                             [**2185-8-26**]  12:10 PM
                             [**2185-8-26**]  02:55 PM
                             [**2185-8-26**]  08:04 PM
                             [**2185-8-26**]  09:38 PM
                             [**2185-8-27**]  03:52 AM
                             [**2185-8-27**]  12:36 PM
                             [**2185-8-27**]  08:00 PM
                             [**2185-8-28**]  03:17 AM
   WBC
   11.6
   14.4
   15.0
   12.3
   Hct
   29.5
   30.7
   27.6
   31.3
   31.9
   33.5
   32.0
   31.2
   Plt
   110
   90
   91
   93
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   0.14
   0.20
   0.22
   0.25
   0.26
   Glucose
   86
   314
   91
   70
   Other labs: PT / PTT / INR:14.5/29.6/1.3, CK / CKMB /
   Troponin-T:100/8/0.26, ALT / AST:17/25, Alk Phos / T Bili:42/2.6,
   Fibrinogen:352 mg/dL, Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
[**2185-8-24**] 9:26 pm SWAB      Source: Groin wound.
   GRAM STAIN (Final [**2185-8-25**]):
      REPORTED BY PHONE TO [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], R.N. ON [**2185-8-25**] AT 0150.
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      SMEAR REVIEWED; RESULTS CONFIRMED.
   WOUND CULTURE (Preliminary):
      Due to mixed bacterial types (>=3) an abbreviated workup is
      performed; P.aeruginosa, S.aureus and beta strep. are reported if
      present. Susceptibility will be performed on P.aeruginosa and
      S.aureus if sparse growth or greater..
      PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      STAPH AUREUS COAG +.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------     8 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------  =>16 R
PIPERACILLIN----------    32 S
PIPERACILLIN/TAZO-----    64 S
TOBRAMYCIN------------     4 S
   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.
   Assessment and Plan
   78 yo F with hx of CAD, A-fib, COPD who presented with lower GI bleed
   and is transfered from [**Hospital3 57**] Hospital for evaluation for IR
   guided embolization.
   Lower GI Bleed: Presented with BRBPR.  Tagged RBC scan positive at [**Hospital **] for L colonic bleeding.  She has required 9 U PRBC and 2 U FFP and
   one unit of platelets since arrival at [**Hospital1 5**] and had 6 U PRBC and 4 U
   FFP at [**Hospital3 **].  Embolization here was unsuccessful.  Colonoscopy with
   many diverticuli, but no active bleeding. Patient with stable Hct for
   greather than 24 hrs.
   - active type and screen
   - hematocrit stable overnight
   - [**Hospital1 **] hematocrits today
   - R IJ in place
   - IV PPI [**Hospital1 **]
   - f/u GI, surgery, IR recs
   - transfuse for > 30
   CAD: S/P NSTEMI in [**7-/2185**] without stents.  Was on ASA, plavix.  Having
   periods of chest pain overnight without EKG changes in the setting of
   tachycardia.  Now with flat CKS and MBs but with slowly rising
   troponins.
   - continue to hold ASA and plavix in the setting of bleeding
   - continue metoprolol 25 mg TID for rapid atrial fibrillation and
   NSTEMI
   - continue simvastatin 80 mg daily
   - trend cardiac enzymes until troponins are declining
   Hypotension:   Patient hypotensive overnight with marginal UOP.
   Presumed hypovolemic.  Bolused total of 1.5 L with 1.3 L of UOP over 24
   hrs. Other etiologies include infectious, hemorrhagic although
   hematocrit is stable.
   - Continue PRN boluses as needed to target SBP and urine output.
   Follow O2 sats and lung exam.
   - transduce CVP if continues to be hypotensive\
   - trend cardiac enzymes
   R femoral wound: necrotic tissue present around prior thrombus site
   - wound culture with pseudomonas resistant to cipro and [**Last Name (un) **]
   - likely will need tobra or gent based on sensitivities
   - f/u wound care and vascular surgery recs
   Atrial fibrillation: Episodes of rapid atrial fibrillation earlier in
   course which responded well to lopressor.   Now A-paced with rate of
   70s
   - continue amiodarone
   - continue metoprolol 25 mg TID with holding parameters
   Thrombocytopenia: Platelets decreased to 50s day after arrival in the
   setting of significant bleeding and resuscitation with PRBCs alone.
   Now stable after single platelet transfusion.
   - monitor platelets
   Dyspnea: patient with episodes of dyspnea and mild desaturations on
   [**8-25**] which was treated with lasix and ativan.  CXr with questionable
   worsening volume overload but other parameters suggest that she is
   intravascularly dry.
   - rate control of atrial fibrillation with metoprolol and amioadarone
   - continue home inhalers for COPD, steroids
   - titrate o2 sats to 88%
   COPD: On home O2 and steroid dependent. Currently on prednisone taper.
   - continue ipratropium and advair, d/c tiotropium
   - slow methylpred taper as patient has been on steroids for extended
   periods of time (will transition to PO prednisone today)
   - Nebs PRN
   Hypernatremia:  Resolved.  Likely secondary to resuscitation with
   normal saline, blood in absence of free water.
   - advance diet to allow thirst to regulate sodium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-24**] 09:28 PM
   Multi Lumen - [**2185-8-25**] 06:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2185-08-28 10:14:00 Physician Attending Progress Note
Chief Complaint: BRBPR
   HPI:
    78 F w/ a h/o [**Hospital 7812**] transferred from an outside hospital with BRBPR,
   tagged cell scan c/w colonic source, s/p massive transfusion, and
   colonoscopy.
   Reports that she feels well.   Mild SOB, but largely unchanged.
   24 Hour Events:
   Changed to p.o. prednisone
   Rec
d 500 cc bolus for low Uo
   Allergies:
   Penicillins
   Unknown;
   Methyldopa
   Unknown;
   Clindamycin
   Unknown;
   Sulfamethoxazole
   Unknown;
   Trimethoprim
   Unknown;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2185-8-27**] 06:06 PM
   Meropenem - [**2185-8-28**] 03:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-8-28**] 06:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-8-28**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 70 (70 - 88) bpm
   BP: 115/64(76) {98/47(61) - 147/84(98)} mmHg
   RR: 17 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 48 kg (admission): 49 kg
   Height: 60 Inch
   CVP: 11 (6 - 19)mmHg
   Total In:
                                                                  2,034 mL
                                                                    209 mL
   PO:
                                                                    780 mL
   TF:
   IVF:
                                                                  1,254 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    370 mL
   Urine:
                                                                    400 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,634 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General: Well appearing, NAD
   Heart: Regular s1,s2. no m/r/g.  Pacer site w/ eschar, no erythema.  No
   tenderness
   Lungs: b/l diffuse wheeze, w/ prolonged exp phase
   R groin vac dressing in place
   Medial and lateral tibial fasciotomies c/d/i.
   Neuro: Alert and oriented x3.
   Labs / Radiology
   10.4 g/dL
   93 K/uL
   70 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.9 mEq/L
   16 mg/dL
   105 mEq/L
   137 mEq/L
   31.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2185-8-26**]  04:06 AM
                             [**2185-8-26**]  09:09 AM
                             [**2185-8-26**]  12:10 PM
                             [**2185-8-26**]  02:55 PM
                             [**2185-8-26**]  08:04 PM
                             [**2185-8-26**]  09:38 PM
                             [**2185-8-27**]  03:52 AM
                             [**2185-8-27**]  12:36 PM
                             [**2185-8-27**]  08:00 PM
                             [**2185-8-28**]  03:17 AM
   WBC
   11.6
   14.4
   15.0
   12.3
   Hct
   29.5
   30.7
   27.6
   31.3
   31.9
   33.5
   32.0
   31.2
   Plt
   110
   90
   91
   93
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   0.14
   0.20
   0.22
   0.25
   0.26
   Glucose
   86
   314
   91
   70
   Other labs: PT / PTT / INR:14.5/29.6/1.3, CK / CKMB /
   Troponin-T:100/8/0.26, ALT / AST:17/25, Alk Phos / T Bili:42/2.6,
   Fibrinogen:352 mg/dL, Albumin:2.7 g/dL, LDH:272 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   78 F w/ a h/o [**Hospital 7812**] transferred from an outside hospital with BRBPR,
   tagged cell scan c/w colonic source, s/p massive transfusion, and
   colonoscopy.
   1. GIB
 unclear source.  Given rapidity and profuse nature of
   hemorrhage possibly diverticular.  Tagged scan from OSH showed possible
   L colonic source.  Has rec
d 15U PRBC, 6FFP, 1 PLT.  Surgery is
   following.  [**Hospital1 **] hct, P.O. PPI.  Maintain Hct >30 given ischemia.  Type
   and screen.
   2. Low Uo output- approx 20 cc/h.  Unchanged w/ IVF bolus.  BP remains
   adequate to mildly elvated.  Patient with low muscle mass likely has
   low Uo at baseline.  Will cont to follow and monitor Cr.
   3. CAD s/p NSTEMI in [**7-19**] w/o PCI (+angiogram).  Holding both
   ASA/plavix.  Enzyme leak likely [**3-14**] demand (AF w/ RVR and on metoprolol
   [**Hospital1 **].  Cont to trend ck/Tn
   4. AF w/ RVR
 amio restarted w/ metoprolol.  Not chronically
   anticoagulated.   Currently a-paced.
   5. Thrombocytopenia
 likely dilutional.  Continues to be  stable.  If
   it continues to drop would consider abx, HIT, etc as alternative
   etiologies.
   6. R femoral wound
 vasc surgery following.  s/p debridement.
   Changed to Cefepime for pseudomonal coverage.  Has PCN allergy, but has
   toleratd cephalosporins.
   7. s/p fasciotomy
 wounds c/d/i.
   8. COPD Exacerbation
 remains wheezy on exam. 2L at home. Transition
   to prednisone 10mg.   Now on day 18 day.  Will need long taper.
   9. FEN
 tolerating fulls
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2185-8-24**] 09:28 PM
   Multi Lumen - [**2185-8-25**] 06:05 AM will d/c today.
   Prophylaxis:
   DVT: pneuumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Called out to floor
   Total time spent:
   ------ Protected Section ------
   I was physically present with the resident team for discussion of the
   above findings including history, review of systems, physical exam with
   which I agree.  Pt will need continued close monitoring on the medical
   floor in the setting of recent significant GI Bleed.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2185-8-28**] 16:14 ------